US20010025121A1
In the hydrolysis of 2,3,5,6-tetrachloro-1,4-benzenedicarboxamide, as apparent from Examples 4 and 5, the maximum reduction of the amount of water in sulfuric acid resulted in efficiently forming desired 2,3,5,6-tetrachloro-1,4-benzenedicarboxylic acid by heating 2,3,5,6-tetrachloro-1,4-benzenedicarboxamide at 180 or 130° C. for 7 or 27 hr.

reactant | 2,3,5,6-tetrachloro-1,4-benzenedicarboxamide | ClC1=C(C(=C(C(=C1Cl)C(=O)N)Cl)Cl)C(=O)N | C8H4Cl4N2O2
reactant | water | O | H2O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 2,3,5,6-tetrachloro-1,4-benzenedicarboxylic acid | ClC1=C(C(=C(C(=C1Cl)C(=O)O)Cl)Cl)C(=O)O | C8H2Cl4O4
